US04904674
The acid chloride of 5-[2-(benzo[b]thiophen-3-yl)ethenyl]thiophene-2-carboxylic acid was prepared as described in Example 9. To a suspension of 5-[2-(benzo[b]thiophen-3-yl)ethenyl]thiophene2-carboxylic acid chloride (5.00 g) and pyridine (50 ml) was added 3-pyridylcarbinol (1.79 g). After refluxing overnight, the mixture was evaporated, and the residue was dissolved in ether, filtered, and concentrated. The residue was purified by high performance liquid chromatography (silica gel, eluted with 2:1 ethyl acetate:hexane). The appropriate fractions were combined and evaporated. The residue was recrystallized from toluene/hexane to afford 1.4 g (23%) of the product, mp 97°-98° C.

reactant | 5-[2-(benzo[b]thiophen-3-yl)ethenyl]thiophene2-carboxylic acid chloride | 5.00 g | S1C2=C(C(=C1)C=CC1=CC=C(S1)C(=O)Cl)C=CC=C2 | C15H9ClOS2
reactant | 3-pyridylcarbinol | 1.79 g | N1=CC(=CC=C1)CO | C6H7NO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 5-[2-(benzo[b]thiophen-3-yl)ethenyl]thiophene-2-carboxylic acid | S1C2=C(C(=C1)C=CC1=CC=C(S1)C(=O)O)C=CC=C2 | C15H10O2S2
